US07741355B2
2-Isopropyl-5-methyl-cyclohexanecarboylic acid [2-(2-bromo-phenyl)-ethyl]-amide
A 100 mL round bottom flask equipped with a stir bar was charged with CH2Cl2 (30 mL), 2-bromo-phenethylamine (1.0 g, 5.00 mmol) and triethylamine (684 μl, 5.05 mmol). The reaction solution was treated with menthoyl chloride (1.02 g, 5.05 mmol) in one portion and stirred at ambient temperature for 30 minutes. The reaction was diluted with CH2Cl2 (50 mL) and washed with water (3×100 mL). Organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a thick oil (1.8 g). Product was used for next step without purification.

reactant | 2-bromo-phenethylamine | 5.00 mmol, 1.0 g | BrC1=C(CCN)C=CC=C1 | C8H10BrN
reactant | triethylamine | 5.05 mmol, 684 μl | C(C)N(CC)CC | C6H15N
reactant | menthoyl chloride | 5.05 mmol, 1.02 g | C1(CC(C(CC1)C(C)C)C(=O)Cl)C | C11H19ClO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-Isopropyl-5-methyl-cyclohexanecarboylic acid [2-(2-bromo-phenyl)-ethyl]-amide | 1.8 g | BrC1=C(C=CC=C1)CCNC(=O)C1C(CCC(C1)C)C(C)C | C19H28BrNO
